US06770637B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2-hydroxy-acetylamino)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 30 mg (0.05 mmol) acetic acid (5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-ylcarbamoyl)-methyl ester in 2 ml tetrahydrofuran were added 2 ml 1 N sodium hydroxide solution at room temperature. After stirring for 15 min, ethyl acetate was added, the aqueous phase was separated and the organic layer was dried (sodium sulfate). After evaporation the residue was purified by flash-chromatography to give 15 mg (54%) of the title compound as white solid.

reactant | acetic acid (5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-ylcarbamoyl)-methyl ester | 0.05 mmol, 30 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)NC(=O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C29H27F6N3O4
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2-hydroxy-acetylamino)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 15 mg, 54% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)NC(CO)=O)(C)C)(F)F | C27H25F6N3O3
